US07319103B2
4-(1,2,3,4-Tetrahydro-acridin-9-yl)-phenol
BBr3 (3.2 mL, 1 M solution in CH2Cl2, 3.2 mmol) was added dropwise to a stirred solution of 9-(4-benzyloxy-phenyl)-1,2,3,4-tetrahydro-acridine (0.23 g 0.64 mmol) in CH2Cl2 (3 mL) at 0° C. The resulting mixture was warmed to room temperature over a period of 3 hours followed by dilution with CH2Cl2 (50 mL). The solution was washed with sat. aq. NaHCO3 until aq. washings were basic (pH˜9). The CH2Cl2 layer was dried over Na2SO4, decanted and concentrated. The residue was washed with hexanes (2×10 mL) and decanted to remove benzyl bromide. The resulting product was used without further purification.

reactant | BBr3 | 3.2 mmol, 1 M, 3.2 mL | B(Br)(Br)Br | BBr3
reactant | 9-(4-benzyloxy-phenyl)-1,2,3,4-tetrahydro-acridine | 0.64 mmol, 0.23 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=1C2=CC=CC=C2N=C2CCCCC12 | C26H23NO
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 4-(1,2,3,4-Tetrahydro-acridin-9-yl)-phenol | C1CCCC2=NC3=CC=CC=C3C(=C12)C1=CC=C(C=C1)O | C19H17NO
